US06730682B2
N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)[1,5]naphthyridine-3-carboxamide (M.2, Z=CH2OH, X=Cl)
Trimethylaluminum (2 M in toluene, 42 μL) is added dropwise to a room temperature solution of 4-chlorobenzylamine (17 μL) in CH2Cl2 (1 mL) under nitrogen. The solution is stirred for 5 minutes before the addition in one portion of ethyl 4-hydroxy-6-(3-hydroxy-1-propynyl)[1,5]naphthyridine-3-carboxylate (Preparation 2, 19 mg). The reaction is stirred at room temperature for 3.5 h. The reaction mixture is partitioned with dil. aq. HCl (2 mL) and extracted with CH2Cl2 (2×2 mL). After drying over MgSO4, the extracts are concentrated under vacuum. The crude residue is flash chromatographed (silica, 10% methanol/CH2Cl2).

reactant | Trimethylaluminum | 2 M, 42 μL | C[Al](C)C
reactant | 4-chlorobenzylamine | 17 μL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | ethyl 4-hydroxy-6-(3-hydroxy-1-propynyl)[1,5]naphthyridine-3-carboxylate | 19 mg | OC1=C(C=NC2=CC=C(N=C12)C#CCO)C(=O)OCC | C14H12N2O4
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)[1,5]naphthyridine-3-carboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(N=C3C2O)C#CCO)C=C1 | C19H14ClN3O3
